* V1 3.3 V rail first-order load-step estimate
* Replace source impedance, capacitance, ESR, and load with measured values.
VREG nsrc 0 3.3
RSRC nsrc ncap 0.12
RESR ncap vout 0.04
COUT vout 0 220u
ILOAD vout 0 PULSE(0.08 0.65 1m 2u 2u 2m 5m)
.tran 2u 10m
.measure tran VMIN MIN v(vout) FROM=1m TO=4m
.measure tran VMAX MAX v(vout) FROM=0 TO=10m
.end
